US05233046
1-Methoxy-4-(phenylethynyl)benzene
Procedure similar to that of Example 16 using [phenylmethyl]-1Hbenzotriazole (10 mmol) and N-[(4-methoxyphenyl)methylene]benzenamine (10 mmol): 67% yield: mp 57°-58° C. (MeOH) (lit.1 58°-60° C.); 1H NMR (300 MHz, CDCl3) δ 3.84 (s, 3H, OCH3), 6.89 (d, 1.9H, 2H, C(3 and 5)H), 7.30-7.38 (m, 3H(), 7.45-7.54 (m, 4H).

reactant | N-[(4-methoxyphenyl)methylene]benzenamine | 10 mmol | COC1=CC=C(C=C1)C=NC1=CC=CC=C1 | C14H13NO
solvent | MeOH | CO | CH4O
product | 1-Methoxy-4-(phenylethynyl)benzene | 67% yield | COC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C15H12O
